US07728023B2
methyl [4-((E)-2-{4-[(4-phenylbutyl)oxy]phenyl}ethenyl)-1H-indol-3-yl]acetate
Methyl 4-bromoindole-3-acetate (1.5 g) and 4-phenylbutoxy-4-styrene (1.48 g) were dissolved in acetonitrile (31 mL), and then triethylamine (10.6 mL) and tris(o-tolyl)phosphine (1.36 g) were added. After deaeration and argon substitution, palladium acetate (0.25 g) was added and then deaeration and argon substitution were conducted again. The mixture was stirred at 90° C. for 3 hours and the reaction mix was filtered, and then the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1→3:1) to obtain the titled compound having the following physical properties (2.2 g).

reactant | Methyl 4-bromoindole-3-acetate | 1.5 g | BrC1=C2C(=CNC2=CC=C1)CC(=O)OC | C11H10BrNO2
reactant | triethylamine | 10.6 mL | C(C)N(CC)CC | C6H15N
reactant | tris(o-tolyl)phosphine | 1.36 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | acetonitrile | 31 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.25 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl [4-((E)-2-{4-[(4-phenylbutyl)oxy]phenyl}ethenyl)-1H-indol-3-yl]acetate | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=C2C(=CNC2=CC=C1)CC(=O)OC | C29H29NO3
